US07504403B2
[2-(3-Bromo-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester:
To a stirring solution of lithium aluminum hydride (24 mL of 1 M in tetrahydrofuran (THF), 24 mmol) at 0° C. under an atmosphere of nitrogen was added sulfuric acid (0.61 mL, 12.0 mmol) in tetrahydrofuran (10 mL) dropwise. Then a solution of 1-bromo-3-(2-nitro-propenyl)-benzene (1.17 g, 4.8 mmol) in THF was added dropwise via an addition funnel. Reaction warmed to room temperature overnight. Reaction chilled to 0° C., and a saturated solution of potassium sodium tartrate tetrahydrate added to the reaction dropwise. Once a cake formed, the organic phase was reduced to an oil under vacuum. This residue was then dissolved in dichloromethane and dried over magnesium sulfate. Di-tert-butyldicarbonate (1.05 g, 4.8 mmol) added and solution stirred overnight at room temperature. Reaction reduced to an oil under vacuum and isolated as a white solid after purification on silica. M+1=314/316.

reactant | lithium aluminum hydride | 24 mmol, 1 M, 24 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | 12.0 mmol, 0.61 mL | S(O)(O)(=O)=O | H2O4S
reactant | 1-bromo-3-(2-nitro-propenyl)-benzene | 4.8 mmol, 1.17 g | BrC1=CC(=CC=C1)C=C(C)[N+](=O)[O-] | C9H8BrNO2
reactant | potassium sodium tartrate tetrahydrate | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | Di-tert-butyldicarbonate | 4.8 mmol, 1.05 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | [2-(3-Bromo-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)Br)C)=O | C14H20BrNO2
